US08497368B2
(E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-N,1-dimethylhydrazinecarboxamide
The title compound was prepared from N,1-dimethylhydrazine carboxamide and 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone in analogy to the synthesis of example 1 in 21% yield. 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.86 (dd, 1H), 8.31 (d, 1H), 8.06 (m, 2H), 7.97 (d, 1H), 7.77 (d, 1H), 7.73 (s, 1H), 7.47 (q, 1H), 6.90 (q, 1H), 4.59 (s, 2H), 3.19 (s, 3H), 2.68 (d, 3H), 2.37 (s, 3H). LCMS (method B): [MH]+=406, tR=2.27 min.

reactant | N,1-dimethylhydrazine carboxamide | CNC(=O)N(N)C | C3H9N3O
reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)C(C)=O | C18H13FN4O
product | (E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-N,1-dimethylhydrazinecarboxamide | 21% yield | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)\C(\C)=N\N(C(=O)NC)C | C21H20FN7O
